US08227613B2
A) 3-Methyl-5-(3-trifluoromethyl-phenyl)-pyridine-2-carboxylic acid methyl ester
To a degassed solution of 8.35 g (36.3 mmol) of 5-bromo-3-methyl-pyridine-2-carboxylic acid methyl ester [Wu, G. G.; Wong, Y.-S.; Poirier, M. Organic Letters (1999), 1(5), 745-747] in 180 ml of dioxane were added 13.79 g (72.6 mmol) of 3-(trifluoromethyl)phenyl boronic acid and 11.54 g (108.9 mmol) of sodium carbonate (dissolved in 55 ml of H2O). While stirring, 1.33 g (1.89 mmol) of (1,1′-bis-diphenylphosphino)-ferrocene)palladium-(II)dichloride (1:1 complex with CH2Cl2) was added and the reaction mixture was stirred at RT for 4 hours, then heated up to 50° C. After 90 min, it was cooled down to RT, poured into crashed ice and extracted twice with EtOAc; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography (heptane/EtOAc 9:1 to 1:1) to give 9.35 g (87%) of the title compound as light yellow solid. MS: 296.1 (MH+).

reactant | 5-bromo-3-methyl-pyridine-2-carboxylic acid methyl ester | 36.3 mmol, 8.35 g | COC(=O)C1=NC=C(C=C1C)Br | C8H8BrNO2
reactant | 3-(trifluoromethyl)phenyl boronic acid | 72.6 mmol, 13.79 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 108.9 mmol, 55 ml, 11.54 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 180 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-(II)dichloride | [Pd](Cl)Cl
product | 3-Methyl-5-(3-trifluoromethyl-phenyl)-pyridine-2-carboxylic acid methyl ester | 9.35 g, 87% | COC(=O)C1=NC=C(C=C1C)C1=CC(=CC=C1)C(F)(F)F | C15H12F3NO2
